US07452894B2
6.(2-Furyl)-2-methyl-1H-purine (Example 153)
A solution of 2-chloro-6-(2-furyl)-1H-purine (1.1 g, 5.0 mmol) and Pd(PPh3)4 (0.58 g, 0.5 mmol) in 1,2-dichloroethane (50 mL) at room temperature was treated dropwise with trimethylaluminium (3.3 mL, 2.0 M hexane), refluxed for 16 h, treated with water (100 mL) then EtOAc (100 mL), stirred for 60 h and filtered through glass microfibre paper. The organic phase was separated, dried (MgSO4), concentrated in vacuo and the resulting solid recrystallised from 90% ethanol to give the title compound (0.30 g, 30%) as a pale brown solid.

reactant | 2-chloro-6-(2-furyl)-1H-purine | 5.0 mmol, 1.1 g | ClC=1NC(=C2N=CN=C2N1)C=1OC=CC1 | C9H5ClN4O
reactant | trimethylaluminium | 2.0 M, 3.3 mL | C[Al](C)C
reactant | water | 100 mL | O | H2O
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
catalyst | Pd(PPh3)4 | 0.5 mmol, 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Furyl)-2-methyl-1H-purine | 0.30 g, 30% | O1C(=CC=C1)N1C(=NC2=NC=NC2=C1)C | C10H8N4O
